US04054719
Following the procedure of Example 1, 5 grams of 4-phenylphenacyl bromide are reacted with 5 grams of butyric acid to obtain 4-phenylphenacyl butyrate, m.p. 82° C.

reactant | 4-phenylphenacyl bromide | 5 grams | C1(=CC=CC=C1)C1=CC=C(C(CBr)=O)C=C1 | C14H11BrO
reactant | butyric acid | 5 grams | C(CCC)(=O)O | C4H8O2
product | 4-phenylphenacyl butyrate | C(CCC)(=O)OCC(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C18H18O3
